US05258529
10.00 Grams of the 1-(2'-chloroallyl)-1-cyclohexanol obtained above were dissolved in 94 g of N,N-dimethylformamide, and 9.65 g of potassium hydroxide in a flake form were added. The mixture was stirred at room temperature for 6 hours, and neutralized with a 20% acetic acid aqueous solution. The resultant mixture was subjected to extraction with toluene. The toluene phase was washed with water and dried over magnesium sulfate. The desiccant was filtered off and the toluene was distilled off under reduced pressure to give 7.68 g of 1-propargyl-1-cyclohexanol; m.p.=53-54° C., FI-MS m/e 138(M+) (Propargyl compound/allene compound=100.0/0.0),

reactant | 1-(2'-chloroallyl)-1-cyclohexanol | ClC(CC1(CCCCC1)O)=C | C9H15ClO
reactant | potassium hydroxide | 9.65 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 94 g | CN(C=O)C | C3H7NO
product | 1-propargyl-1-cyclohexanol | 7.68 g | C(C#C)C1(CCCCC1)O | C9H14O
